US05260179
In a 250-mL flask was placed 87 g (0.6 mol) of 2-cyano-1,1,1-trimethoxyethane, 46.5 g (0.5 mol) of aniline, and 1.0 g (0.005 mol) of p-toluenesulfonic acid monohydrate. The mixture was placed in a pre-heated oil bath at 120° C. and stirred rapidly. The methanol by-product of the reaction was allowed to boil off. When the internal reaction temperature reached 110° C., the reaction flask was fitted with a water aspirator vacuum take-off, and the residual methanol was removed at approximately 20 mm Hg. The crude product mixture was then distilled under high vacuum and the fraction distilling at 115°-125° C. (0.5 mm Hg) was collected to give 47.6 g (0.27 mol, 54.6% yield) of methyl 2-cyano-N-phenylacetimidate as a light yellow liquid, which was characterized by NMR and mass spectral data. HPLC analysis showed this material to be 96% pure. Elemental analysis: Calculated: C, 68.95; H, 5.79; N, 16.08. Found: C, 66.80, H, 5.72, N, 15.36.

reactant | 2-cyano-1,1,1-trimethoxyethane | 0.6 mol, 87 g | C(#N)CC(OC)(OC)OC | C6H11NO3
reactant | aniline | 0.5 mol, 46.5 g | NC1=CC=CC=C1 | C6H7N
reactant | water | O | H2O
catalyst | p-toluenesulfonic acid monohydrate | 0.005 mol, 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | CO | CH4O
product | methyl 2-cyano-N-phenylacetimidate | 0.27 mol, 47.6 g, 54.6% yield | C(#N)CC(OC)=NC1=CC=CC=C1 | C10H10N2O
